US04017624
To a mixture of 4 g of lithium aluminum hydride and 40 ml of tetrahydrofuran was added portionwise 2 g of 8-{2-[N-(p-fluorophenyl)carbamoyl]ethyl}-1-phenyl-4-oxo-1, 3, 8-triazaspiro[4, 5]decane under cooling. Then, the mixture was heated under reflux for 4 hours. To the reaction mixture were gradually added water and benzene under cooling, and the precipitate was filtered off. The organic layer was separated, dried over sodium sulfate evaporated under reduced pressure. The residue was triturated with ether, cooled and filtered to give 8-{3-(p-fluoroanilino)propyl}-1-phenyl-4-oxo-1, 3, 8-triazaspiro[4, 5]decane, m.p. 158°-162° C; recrystallized from benzene, m.p. 177°-178° C.

reactant | lithium aluminum hydride | 4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 8-{2-[N-(p-fluorophenyl)carbamoyl]ethyl}-1-phenyl-4-oxo-1, 3, 8-triazaspiro[4, 5]decane | 2 g | FC1=CC=C(C=C1)NC(=O)CCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C22H25FN4O2
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 8-{3-(p-fluoroanilino)propyl}-1-phenyl-4-oxo-1, 3, 8-triazaspiro[4, 5]decane | FC1=CC=C(NCCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C1 | C22H27FN4O
